Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: Mr. ___ is a ___ man with recent history of
right navicular fracture non-operatively managed complicated by
DVT on rivaroxaban who presents with shortness of breath.

Per review of the records, the patient was in his usual state of
health until three weeks ago when he had a mechanical fall
(rolled his ankle while at work as a ___),
resulting in a right navicular fracture. Of additional note, he
also recently had a mild trauma to the back of his right knee 
(he
was hit by a hockey puck). He was seen by an outside orthopedist
(Dr. ___ at ___, who recommended a walking boot. 

He was initially doing well at home, but 10 days prior to
admission, he developed severe right calf cramping and pain, as
well as right foot discoloration. He had an outpatient 
ultrasound
that demonstrated a right posterior tibial vein DVT, and he
presented to ___ where he was started on a heparin
gtt. Due to concern for possible ischemia of the limb, he
underwent CTA that was nondiagnostic and was subsequently
transferred to ___ for further care on ___. Here, he was
seen by vascular surgery who felt that the patient did not have
limb threat, and was discharged home on rivaroxaban 15 mg BID. 

The patient tells me that he missed the first scheduled evening
dose of rivaroxaban due to insurance issues, but otherwise has
been taking it as prescribed, 15 mg twice daily with at least 
500
calories. He has not missed any other doses. He did take one 
dose
during a subsequent ER visit that was not with food.

He was seen in the outpatient setting on ___ by vascular
medicine and underwent ABI/PVRs that were largely normal, and 
who
felt that the explanation for the patient's cool and discolored
foot was not perfectly clear (paradoxical embolism vs. increased
vasoreactivity) but agreed with continuation of anticoagulation. 


However, the patient had increased pain and discoloration
overnight so presented again to the ED on ___.
He was seen by vascular surgery who recommended repeat CTA, 
which
showed patent arterial vasculature. 

He tells me that since he fracture his foot, he has felt 
slightly
breathless when using his crutches to ambulate. This is
particularly unusual for him as he is physically fit (he is a
___ and ___). However, one day prior 
to
admission, he developed severe shortness of breath at rest and
with exertion. He also felt a cold sensation in the ___ 
his
chest, as well as palpitations and tingling in his bilateral
hands and mouth. He felt dizzy when he stood. He used a pulse
oximeter at home and reports that his oxygen saturation was
normal. He reports that the pain and discoloration in his right
lower extremity has slowly improved. He spoke with his
orthopedist, who recommended that he discontinue the walking 
boot
and begin weight bearing with the crutches as tolerated, and he
has been able to bear about 20% of his weight. He reports that 
he
still gets the sensation that his right lower extremity up to 
the
knee has been dipped in ice water, but this sensation primarily
occurs when his leg has been in the dependent position for a
prolonged period of time.

Given his symptoms, a visiting nurse suggested that he present 
to
the ED for further evaluation. 

Initial vitals: 98.7 78 145/85 24 100% RA 
Labs notable for: CBC wnl; PTT39.9, INR 1.6; BUN/Cr ___
trop<0.01x2, proBNP 25
Imaging: CTA with PE
Patient given: Heparin gtt

On arrival to the floor, the patient recounts the above history.
He feels that his shortness of breath is somewhat worse, but
attributes this to prolonged speaking. When he speaks, he feels
tingling in his bilateral hands. His right ankle at the site of
the fracture is sore.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- Right navivular fracture
- Right lower extremity DVT
- S/p removal of bone spur on right heel
 
Social History:
___
Family History:
No known family history of blood clots. Cousin
with history of CVA in his ___ in setting of car accident. 
Mother
with RA, ___. Uncle with MI in his ___.
 
Physical Exam:
ADMISSION:
=========
VITALS: 97.9 116/72 72 20 98 RA 
GENERAL: Alert and mildly uncomfortable appearing
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Tachypneic. Lungs clear to auscultation with good air
movement bilaterally. 
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present.  
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs; right leg slightly 
cooler
than left; ___ pulses intact
SKIN: Port wine stain birthmark over right knee; no 
discoloration
of right foot; no petechiae or bruising
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

DISCHARGE:
==========
Standing: 127 / 79, 76; Sitting: 117 / 75, 67, Lying: 133/75, 
HR: 66, RR: 16, O2 98% RA, T: 98.0 
GENERAL: NAD
EYES: sclera anicteric, EOMI
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: NS1/S2, RRR
RESP: CTAB
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present.  
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs;  ___ pulses intact, 
___
strength in LLE, ___ strength in RLE secondary to calf pain,
unable to flex right lower extremity ankle secondary to recent
fracture 
SKIN: Port wine stain birthmark over right knee; no 
discoloration
of right foot; no petechiae or bruising
NEURO: CN II-XII grossly intact 
PSYCH: appropriate affect
___: no edema, +1 DP pulses palpated in RLE and LLE 

 
Pertinent Results:
ADMISSION:
==========
___ 12:19PM BLOOD WBC-4.6 RBC-5.13 Hgb-16.2 Hct-46.3 MCV-90 
MCH-31.6 MCHC-35.0 RDW-12.3 RDWSD-40.8 Plt ___
___ 12:19PM BLOOD ___ PTT-39.9* ___
___ 12:19PM BLOOD Glucose-103* UreaN-21* Creat-1.3* Na-138 
K-4.2 Cl-102 HCO3-23 AnGap-13
___ 04:36PM BLOOD cTropnT-<0.01
___ 12:19PM BLOOD cTropnT-<0.01 proBNP-25
___ 12:19PM BLOOD Calcium-10.2 Phos-1.9* Mg-2.0

DISCHARGE:
==========
___ 08:16AM BLOOD WBC-4.6 RBC-4.93 Hgb-15.6 Hct-46.2 MCV-94 
MCH-31.6 MCHC-33.8 RDW-12.2 RDWSD-42.5 Plt ___
___ 06:43AM BLOOD WBC-5.2 RBC-4.81 Hgb-15.2 Hct-45.1 MCV-94 
MCH-31.6 MCHC-33.7 RDW-12.3 RDWSD-42.8 Plt ___
___ 12:19PM BLOOD Neuts-42.3 ___ Monos-11.4 Eos-2.0 
Baso-1.1* Im ___ AbsNeut-1.94 AbsLymp-1.97 AbsMono-0.52 
AbsEos-0.09 AbsBaso-0.05
___ 08:16AM BLOOD Plt ___
___ 08:16AM BLOOD ___ PTT-37.3* ___
___ 08:16AM BLOOD Glucose-79 UreaN-16 Creat-1.4* Na-141 
K-4.2 Cl-103 HCO3-25 AnGap-13
___ 06:43AM BLOOD Glucose-80 UreaN-16 Creat-1.4* Na-143 
K-4.8 Cl-104 HCO3-25 AnGap-14
___ 05:15AM BLOOD Glucose-89 UreaN-16 Creat-1.3* Na-141 
K-4.0 Cl-105 HCO3-24 AnGap-12
___ 06:43AM BLOOD ALT-19 AST-19 CK(CPK)-193 AlkPhos-75 
TotBili-0.7
___ 08:16AM BLOOD Calcium-10.0 Phos-4.2 Mg-2.0
___ 06:43AM BLOOD Calcium-9.8 Phos-4.8* Mg-2.1
___ 06:43AM BLOOD TSH-2.7

IMAGING:
========
EKG (___):
NSR at 68bpm, nl axis, PR 368, QRS 100, QTC 416, no ischemic
changes or RV strain pattern, 1st degree AV block and likely 2nd
degree block type I (although no clear P preceding possible
dropped beat)

TTE (___):
Nl BiV systolic function (EF 57%). Mild MR with mild anterior
leaflet systolic prolapse. Mild TR. No e/o R->L intracardiac
shunt at rest or with maneuvers.

R ___ (___):
Persistent deep venous thrombosis of a mid right posterior 
tibial
vein, improved from prior.  No additional deep venous 
thrombosis.

  
EKG (___):
NSR at 69 bpm, nl axis, PR 206 (1st degree block), QRS 103, QTC
430, borderline LVH, no ischemic changes or clear RV strain
pattern

CTA chest (___):
Single focus of subsegmental pulmonary embolism in the right
lower lobe, with no prior for comparison. 
  
Prior:
-------
ABI/TBI (___):
On the right side, triphasic Doppler waveforms are seen in the
posterior tibial and dorsalis pedis arteries. The right TBI was
0.65 
On the left side, triphasic Doppler waveforms are seen at the
left femoral, superficial femoral, popliteal, posterior tibial
and dorsalis pedis arteries.  The left ABI was 1.22. 
Pulse volume recordings showed symmetric amplitudes in the toes 
IMPRESSION: Limited study. Normal distal Doppler waveforms. No
evidence of arterial insufficiency. 

CTA lower extremities with and without contrast (___):    
1. Partial, segmental opacification of the dorsalis pedis artery
bilaterally, this can be seen in vasospasm 
2. Otherwise patent right lower extremity arterial vasculature. 
3. Delayed opacification of the distal left posterior tibial and
anterior tibial arteries. 

Right lower extremity ultrasound (___):
Deep vein thrombosis of a right posterior tibial
vein. Cannot assess for progression of clot given absence of
prior for comparison. No additional deep venous thrombosis,
specifically no clot within the popliteal vein. 

 
Brief Hospital Course:
___ man with recent history of right navicular fracture 
non-operatively managed complicated by RLE DVT on rivaroxaban 
who presents with acute onset shortness of breath, found to have 
subsegmental PE.

# Subsegmental pulmonary embolism:
# Right lower extremity DVT:
Patient with recent diagnosis of provoked DVT in setting of 
orthopedic fracture and immobility, started appropriately on 
rivaroxaban 15 mg BID on ___ to which he had been faithfully 
adherent. Recent ED visits with pain and discoloration of the R 
foot, for which multiple CT angiograms were performed and 
vascular surgery was involved, without evidence of arterial 
insufficiency, likely vasospasm. R foot appeared to be 
improving, with no e/o hypoperfusion. Presented this admission 
with acute onset shortness of breath, found to have RLL 
subsegmental PE without hypoxia or evidence of RV strain on 
echocardiogram. Unclear chronicity, but assume acute given onset 
of symptoms 1-day prior to admission. If so, concerning for 
rivaroxaban failure. R ___ showed some improvement in DVT, but 
could simply represent embolization of portion of that clot to 
the pulmonary bed. He was started initially on a heparin gtt and 
was seen by vascular medicine. At their recommendation, was 
transitioned to lovenox bridge to Coumadin. His shortness of 
breath and dyspnea on exertion gradually improved, and he was 
ambulating without significant difficulty or hypoxia at the time 
of discharge.  He will be discharged on lovenox and coumadin 5 
mg, with goal INR ___, to be managed by his primary care doctor 
Dr. ___ next INR to be drawn on ___. Lovenox 
should be continued concurrent with coumadin until INR 
therapeutic x ___. He will f/u with Vascular Medicine in ___ 
for consideration of a thrombophilia w/u.  

# Possible early ___: 
Baseline Cr ~1.2-1.3 (Cr likely underestimates GFR given muscle 
mass), up to 1.4 on ___. Suspect mild CIN due to multiple 
recent contrast loads ___, and ___ vs pre-renal 
etiology, improved and now back to baseline after IVFs. Lower 
suspicion for paradoxical embolism given absence of PFO on TTE. 
On discharge, creatinine was 1.4, UA was negative. Patient 
reporting urinating well. Discussed to recheck chemistries in 
one week after discharge and further evaluation if creatinine 
continues to rise, consideration of renal ultrasound as 
outpatient if needed.

# Right navicular fracture:
Followed by orthopedic surgery at ___. Walking boot was 
recently continued, and he was instructed to WBAT with crutches. 
Tylenol was continued PRN for pain. NSAIDs should likely be 
avoided given possible ___ as above.

# 1st degree AV block:
# Possible 2nd degree AV block, type I:
Noted on telemetry and EKG to have 1st degree and intermittent 
2nd degree type I AV block. Discussed with vascular medicine, 
who felt these rhythms to be benign and unrelated to his PE. No 
intervention needed.

#Derm:
Patient with port wine stain on his right knee, he also stated 
his grandmother also had similar port wine stain. Discussed to 
follow-up with PCP and discuss with vascular as outpatient 
regarding evaluation of vascular malformation/port wine stain 
and its possible relationship with neurofibromatosis or another 
neurocutaneous syndrome and relationship to possible increased 
risk for DVT.

Patient also reported recent hike to mountains in ___ 
several weeks ago, he states ongoing history of joint pain that 
has been present for several months, however he is also 
athletic. Denies rashes, fevers. Does not recall removing tick. 
Given history and patient's concern for 1st degree and 
intermittent 2nd degree AV block, have sent lyme titers pending 
at discharge. 

** TRANSITIONAL **
[ ] continue lovenox bridge to coumadin until INR >2 for ___ 
hours, f/u INR testing on ___
[ ] f/u with vascular medicine for consideration of 
thrombophilia w/u and consideration of port wine statin/vascular 
malformation involvement with a possible neurocutaneous syndrome 
linked to risk for DVT

No services were provided on discharge. Patient will follow-up 
with physical therapy as outpatient and obtain INR testing on 
___. Follow-up with PCP and vascular medicine as outpatient.

Greater than 30 minutes were spent in coordination of discharge 
management. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 15 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Enoxaparin Sodium 90 mg SC Q12H 
RX *enoxaparin 100 mg/mL 90 mg SC every twelve (12) hours Disp 
#*14 Syringe Refills:*0 
3.  Warfarin 5 mg PO DAILY16 
RX *warfarin [Coumadin] 5 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary embolism
Right leg deep vein thrombosis
Heart block, second-degree type I

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with shortness of breath and 
were found to have a blood clot in your lungs.  This clot seems 
to have occurred while on the blood thinner Xarelto for your 
right leg clot.  Given this, the vascular medicine team was 
involved and recommended transitioning you from Xarelto to a 
medication called Coumadin.  While initiating Coumadin, you are 
at risk for further clots, and therefore you are being 
discharged on a medicine called Lovenox that should be taken 
concurrently with Coumadin until your Coumadin blood levels are 
therapeutic.  Please be sure to take Lovenox reliably twice a 
day.  You should have your blood checked at your primary care 
doctor's office on ___ for Coumadin titration; your primary 
care doctor ___ future checks going forward.  Please 
also be sure to follow-up with vascular medicine doctors at your 
___ appointment.

You will need follow-up labs including INR and chemistries at 
your next PCP appointment and ___ also see an assistant on 
___ for Coumadin titration.

With best wishes for a speedy recovery,
___ medicine
 
Followup Instructions:
___